US09260414B2
(a) 4-piperazin-1-yl-benzoic acid
A mixture of 4-(4-(tert-butoxycarbonyl)piperazin-1-yl)benzoic acid (28 g, 91 mmol) in hydrochloric acid in methanol (300 mL) was stirred at room temperature for 4 h. The resulting precipitate was collected by filtration and concentrated to dryness to provide the title compound (17 g, 61% yield) as a white solid.

reactant | 4-(4-(tert-butoxycarbonyl)piperazin-1-yl)benzoic acid | 91 mmol, 28 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C16H22N2O4
solvent | hydrochloric acid | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
product | 4-piperazin-1-yl-benzoic acid | 17 g, 61% yield | N1(CCNCC1)C1=CC=C(C(=O)O)C=C1 | C11H14N2O2
